US04064347
2,7-Bis(5-Morpholinovaleryl)fluorene
By the procedure of Example 7, 20.2g (0.05 mole) of 2,7-bis(5-chlorovaleryl)fluorene, prepared in Example 2, 34.9g (0.4 mole) of morpholine were reacted to give the desired product which was recrystallized twice from methylene chloride-methanol. M.P. 134°-136.5° C, λmax0.1NHCl 325, Elcm1% 776.

reactant | 2,7-bis(5-chlorovaleryl)fluorene | 0.05 mole, 20.2g | ClCCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCCl)=O | C23H24Cl2O2
reactant | morpholine | 0.4 mole, 34.9g | N1CCOCC1 | C4H9NO
product | 2,7-Bis(5-Morpholinovaleryl)fluorene | O1CCN(CC1)CCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCN1CCOCC1)=O | C31H40N2O4
